US06436983B1
Part D. Preparation of [[2-Ethyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid tert-butyl ester
2-Ethyl-4-hydroxy-1-(phenylmethyl)-1H-indole (5.82 g, 20 mmol) is added to 7.82 g (24 mmol) cesium carbonate in 25 mL DMF and the mixture is stirred at 35° C. for 30 minutes. After cooling to 20° C., a solution of tert-butyl bromoacetate (4.65 g, 23.8 mmol) in 5 mL DMF is added and stirring maintained until the reaction is judged complete by TLC analysis (several hours). The mixture is diluted with water and extracted with ethyl acetate. The ethyl acetate solution is washed with brine, dried (MgSO4) and concentrated at reduced pressure to give 6.8 g of solid. Mass spectrum: 365

reactant | 2-Ethyl-4-hydroxy-1-(phenylmethyl)-1H-indole | 20 mmol, 5.82 g | C(C)C=1N(C2=CC=CC(=C2C1)O)CC1=CC=CC=C1 | C17H17NO
reactant | cesium carbonate | 24 mmol, 7.82 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl bromoacetate | 23.8 mmol, 4.65 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | [[2-Ethyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid tert-butyl ester | 6.8 g | C(C)(C)(C)OC(COC1=C2C=C(N(C2=CC=C1)CC1=CC=CC=C1)CC)=O | C23H27NO3
